US07585882B2
A mixture of 4-(3-Benzyloxy-4-methoxyphenyl)-2-pyrrolidone (3.5 g, 11.6 mmol) and 350 mg of 10% Pd/C in 50 mL of MeOH and 10 mL of CH2Cl2 was shaken on a Paar apparatus under a 20 psi atmosphere of hydrogen for 8 hours. The mixture was filtered through celite and concentrated to afford 2.4 g (99%) of 4-(3-Hydroxy-4-methoxyphenyl)-2-pyrrolidone that was used without further purification for the syntheses described in Examples 1-3. 1H NMR (300 MHz, CDCl3) δ 6.82 (s, 1H), 6.79 (d, J=7.6 Hz, 1H), 6.70 (d, J=7.6 Hz, 1H), 6.50 (s, 1H), 3.87 (s, 3H), 3.77 (t, J=8.4 Hz, 1H), 3.62 (t, J=8.0 Hz, 1H), 3.40 (t, J=8.4 Hz, 1H), 2.71 (dd, J=16.8, 8.8 Hz, 1H), 2.49 (dd, J=16.8, 9.0 Hz, 1H).

reactant | 4-(3-Benzyloxy-4-methoxyphenyl)-2-pyrrolidone | 11.6 mmol, 3.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1CC(NC1)=O | C18H19NO3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 50 mL | CO | CH4O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | 4-(3-Hydroxy-4-methoxyphenyl)-2-pyrrolidone | 2.4 g, 99% | OC=1C=C(C=CC1OC)C1CC(NC1)=O | C11H13NO3
